US07157464B2
Synthesis of 1-(4-Chloro-3-isopropoxy-phenyl)-piperazine
1-Bromo-3-isopropoxy-4-chlorobenzene (preparation described elsewhere) was combined with 1.11 g (6 mmol) of 1-Bocpiperazine, 672 mg (7.0 mmol) of sodium tert-butoxide, 93 mg (0.15 mmol) of rac-2,2′-Bis(diphenylphosphine)-1,1′-binaphthyl, and 45 mg (0.05 mmol) Tris(dibenzylideneacetone)dipalladium (0) in a flask under an N2 atmosphere, and the mixture was heated at 85° C. for 3.5 hours. The resulting residue was partitioned between a 1/1 mixture of ether and ethyl acetate and water, and the phases were separated. The ether/ethyl acetate phase was diluted with one volume of hexanes, washed twice with 0.5M pH=7 phosphate buffer, and once each with 1M NaOH and brine. The final organic phase was dried over Na2SO4, filtered, and concentrated in vacuo to an oil. The oil was dissolved in ethyl acetate, 10 mL each of 2M HCl in ether and methanol were added, and the product was isolated by filtration after crystallization. 1H NMR (D2O, 400 MHz): 7.23 (d, 1H), 6.69 (s, 1H), 6.59 (d, 1H), 4.53 (m, 1H), 3.28 (m, 8H), 1.20 (d, 6H) ppm.

reactant | 1-Bromo-3-isopropoxy-4-chlorobenzene | BrC1=CC(=C(C=C1)Cl)OC(C)C | C9H10BrClO
reactant | 1-Bocpiperazine | 6 mmol, 1.11 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | sodium tert-butoxide | 7.0 mmol, 672 mg | CC(C)([O-])C.[Na+]
catalyst | Tris(dibenzylideneacetone)dipalladium | 0.05 mmol, 45 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(4-Chloro-3-isopropoxy-phenyl)-piperazine | ClC1=C(C=C(C=C1)N1CCNCC1)OC(C)C | C13H19ClN2O
